US06090843
[6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl][4-([Tetrahydrofuran-2-yl]methoxy)phenyl]methanone
[6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl](4-hydroxyphenyl)methanone (390 mg, 1 mmol) and 2-hydroxymethyl tetrahydrofuran (153 mg, 1.50 mmol) were converted to 297 mg of the title compound by the procedure of Example 9 using 393 mg (31.5 mmol) of triphenylphosphine and 0.24 mL (1.5 mmol) of diethyl azodicarboxylate the only differences being that the chromatography eluent was 3:7 ethyl acetate:hexanes.

reactant | [6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl](4-hydroxyphenyl)methanone | 1 mmol, 390 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)O)C2=CC=C(C=C2)OC)C1 | C23H18O4S
reactant | 2-hydroxymethyl tetrahydrofuran | 1.50 mmol, 153 mg | OCC1OCCC1 | C5H10O2
reactant | triphenylphosphine | 31.5 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.5 mmol, 0.24 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl][4-([Tetrahydrofuran-2-yl]methoxy)phenyl]methanone | 297 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC2OCCC2)C2=CC=C(C=C2)OC)C1 | C28H26O5S
